US08703758B2
I) 1-({trans-4-[6-(cyclopropylmethoxy)-1-benzofuran-2-yl]cyclohexyl}oxy)propan-2-ol
To a solution of 1-({trans-4-[6-(cyclopropylmethoxy)-1-benzofuran-2-yl]cyclohexyl}oxy)propan-2-one (556 mg) in ethanol (10 mL) was added sodium borohydride (123 mg) under ice-cooling. The mixture was stirred at 0° C. for 1 hr and extracted with ethyl acetate and 1M hydrochloric acid. The obtained organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel chromatography (hexane/ethyl acetate) to give the title compound (555 mg).

reactant | 1-({trans-4-[6-(cyclopropylmethoxy)-1-benzofuran-2-yl]cyclohexyl}oxy)propan-2-one | 556 mg | C1(CC1)COC1=CC2=C(C=C(O2)[C@@H]2CC[C@H](CC2)OCC(C)=O)C=C1 | C21H26O4
reactant | sodium borohydride | 123 mg | [BH4-].[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 1-({trans-4-[6-(cyclopropylmethoxy)-1-benzofuran-2-yl]cyclohexyl}oxy)propan-2-ol | 555 mg | C1(CC1)COC1=CC2=C(C=C(O2)[C@@H]2CC[C@H](CC2)OCC(C)O)C=C1 | C21H28O4
